US07572805B2
(3aR,9bS)-8-Ethyl-2,3,3a,4-tetrahydro-1H-pyrrolo[3,4-c]isoquinolin-5(9bH)-one hydrochloride
To a solution of (3aR,9bS)-6-chloro-8-ethyl-2,3,3a,4-tetrahydro-1H-pyrrolo[3,4-c]isoquinolin-5(9bH)-one hydrochloride (the title compound of Example 29) (36 mg, 0.12 mmol) in 5 mL of methanol was added 10% Pd/C catalyst (2.5 mg). The mixture was stirred at room temperature under 1 atm of hydrogen maintained by a balloon for 3 h. The reaction mixture was filtered through a pad of Celite and concentrated in vacuo. The resulting solid was triturated with ether and dried in vacuo to afford 25 mg (80%) of the title compound of Example 40 as an off-white solid. 1H NMR (CD3OD): δ 7.91 (d, 1H, J=8.3 Hz), 7.32 (d, 1H, J=7.7 Hz), 7.10 (s, 1H), 4.10-4.03 (m, 1H), 3.80-3.68 (m, 2H), 3.47-3.39 (m, 2H), 3.30-3.25 (m, 1H), 2.72 (q, 2H, J=7.5 Hz), 1.25 (t, 3H, J=7.7 Hz). LRMS (ESI): 217.2 (M+H)+.

reactant | (3aR,9bS)-6-chloro-8-ethyl-2,3,3a,4-tetrahydro-1H-pyrrolo[3,4-c]isoquinolin-5(9bH)-one hydrochloride | Cl.ClC1=CC(=CC=2[C@@H]3[C@@H](NC(C12)=O)CNC3)CC
solvent | methanol | 5 mL | CO | CH4O
catalyst | Pd/C | 2.5 mg | [Pd] | Pd
product | (3aR,9bS)-8-Ethyl-2,3,3a,4-tetrahydro-1H-pyrrolo[3,4-c]isoquinolin-5(9bH)-one hydrochloride | Cl.C(C)C1=CC=2[C@@H]3[C@@H](NC(C2C=C1)=O)CNC3 | InChI=1S/C13H16N2O.ClH/c1-2-8-3-4-9-10(5-8)11-6-14-7-12(11)15-13(9)16;/h3-5,11-12,14H,2,6-7H2,1H3,(H,15,16);1H/t11-,12+;/m1./s1
